US05523458
Synthesis of (2S,3S,5S)-2-(N,N-dibenzylamino)-5-amino-1,6-diphenyl-3-hexanol
To 40 ml of 4N hydrochloric acid, was added 10.86 g of (2S,3S,5S)-2-(N,N-dibenzylamino)-5-acetylamino-1,6-diphenyl-3-hexanol, and the resulting solution was refluxed for 6 hours and cooled to room temperature. To the reaction mixture, was added 30 ml of n-butanol, and the resulting mixture was neutralized with dropwise addition of a 10% solution of sodium hydroxide. The organic layer of n-butanol was separated, washed with water, dried over sodium sulfate and concentrated to dryness under reduced pressure, thereby obtaining 9.29 g (100%) of the title compound as a colorless resin. This compound was found to be a single compound by high performance liquid chromatography (HPLC), and hence used in the subsequent process without further purification.

reactant | hydrochloric acid | 4N, 40 ml | Cl | ClH
reactant | (2S,3S,5S)-2-(N,N-dibenzylamino)-5-acetylamino-1,6-diphenyl-3-hexanol | 10.86 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)NC(C)=O)O | C34H38N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | n-butanol | 30 ml | C(CCC)O | C4H10O
product | (2S,3S,5S)-2-(N,N-dibenzylamino)-5-amino-1,6-diphenyl-3-hexanol | 9.29 g, 100% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)N)O | C32H36N2O
